US05639776
Preparation of 3-(4-chlorophenyl)-4, 5-dihydropyrazol-5-one
A mixture of 26 g (0.10 mol) of ethyl α-(4-chlorobenzoyl)isobutyrate, 10 g (0.20 mol) of hydrazine monohydrate and 200 ml of ethanol was heated under reflux for 18 hours. The reaction solution was concentrated under reduced pressure. The obtained crude product was washed successively with water, methanol-water and diethyl ether-n-hexane and then air dried, to give 16 g of the object compound as white crystals (yield 84%).

reactant | ethyl α-(4-chlorobenzoyl)isobutyrate | 0.10 mol, 26 g | ClC1=CC=C(C(=O)C(C(=O)OCC)(C)C)C=C1 | C13H15ClO3
reactant | hydrazine monohydrate | 0.20 mol, 10 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-4, 5-dihydropyrazol-5-one | 16 g, yield 84% | ClC1=CC=C(C=C1)C1=NNC(C1)=O | C9H7ClN2O
